* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 22.8
R1 n1 a 2
R2 a nc 3
V2 nc nd DC 20.2
R3 nd ne 3
V3 b ne DC 16.9
V4 nf b DC 11.8
R4 nf 0 4
.op
.print dc V(a) V(b)
.end